US05663336
4,5-Bis(4-aminoanilino)phthalimide
A solution of 38 mg (0.09 mmol) of 4,5-bis(4-nitroanilino)phthalimide in 15 ml of THF is hydrogenated with 10% Raney nickel as catalyst for three hours at normal pressure and room temperature. The catalyst is filtered off and the reaction mixture is concentrated by evaporation, yielding the title compound in the form of a slightly yellowish powder: m.p. 154°-157° C., FAB-MS: 360 (M+ +H).

reactant | 4,5-bis(4-nitroanilino)phthalimide | 0.09 mmol, 38 mg | [N+](=O)([O-])C1=CC=C(NC=2C=C3C(C(=O)NC3=O)=CC2NC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C20H13N5O6
solvent | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 4,5-Bis(4-aminoanilino)phthalimide | NC1=CC=C(NC=2C=C3C(C(=O)NC3=O)=CC2NC2=CC=C(C=C2)N)C=C1 | C20H17N5O2
